US04536518
(D) 4-(3,4-Dichlorophenyl)-4-phenylbutanoic Acid
A solution of 4-(3,4-dichlorophenyl)-4-phenylbut-3-enoic acid (223 g., 0.73 mole) in ethyl acetate (2 l.) was hydrogenated over 8 grams of 5% Pd/C catalyst at atmospheric pressure and room temperature until hydrogen uptake ceased (about 24 hours). The catalyst was separated by filtration and the filtrate evaporated under vacuum to a light brown oil containing traces of solvent (ca. 100% yield). An analytical sample of the named compound was crystallized from hexane (m.p. 118°-120° C., elemental analysis calculated: 62.17% C; 4.57% H; 22.94% Cl; found: 62.08% C; 4.56% H; 23.16% Cl).

reactant | 4-(3,4-dichlorophenyl)-4-phenylbut-3-enoic acid | 0.73 mole, 223 g | ClC=1C=C(C=CC1Cl)C(=CCC(=O)O)C1=CC=CC=C1 | C16H12Cl2O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 8 grams | [Pd] | Pd
product | 4-(3,4-Dichlorophenyl)-4-phenylbutanoic Acid | ca. 100% yield | ClC=1C=C(C=CC1Cl)C(CCC(=O)O)C1=CC=CC=C1 | C16H14Cl2O2
